* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft2.asc
R1 d 0 6
R2 a c 2
L1 b a 4
L2 d a 3
L4 d b 5
R3 0 d 7
V1 c 0 SINE(0 1 1K)
.tran 10m
.backanno
.end
